US07253174B2
Synthesis of 3-[5-Cyano-2-[(2,2-dimethyl-propyl)-methyl-amino]-6-(4-methyl-[1,4]diazepan-1-yl)-pyrimidin-4-ylamino]-N-ethoxy-4-methyl-benzamide
To a stirred mixture of 3-[2-[(2,2-dimethyl-propyl)-methyl-amino]-6-(4-methyl-[1,4]diazepan-1-yl)-pyrimidin-4-ylamino]-N-ethoxy-4-methyl-benzamide (50 mg, 0.1 mmol) and sodium cyanide (0.044 g, 0.89 mmol) in sat. aq. sodium bicarbonate (1 mL) and methylene chloride (3 mL) was added at room temp bromine (0.045 mL, 0.87 mmol). The resulting mixture was continued stirring for 16 h at room temp. The reaction mixture was diluted with water and extracted with methylene chloride (2×15 mL). The combined organic layer was dried (sodium sulfate), filtered and concentrated under reduced pressure, and the product was purified by HPLC. C27H40N8O2 MS m/e=509 (M+H).

reactant | 3-[2-[(2,2-dimethyl-propyl)-methyl-amino]-6-(4-methyl-[1,4]diazepan-1-yl)-pyrimidin-4-ylamino]-N-ethoxy-4-methyl-benzamide | 0.1 mmol, 50 mg | CC(CN(C1=NC(=CC(=N1)NC=1C=C(C(=O)NOCC)C=CC1C)N1CCN(CCC1)C)C)(C)C | C26H41N7O2
reactant | sodium cyanide | 0.89 mmol, 0.044 g | [C-]#N.[Na+]
reactant | bromine | 0.87 mmol, 0.045 mL | BrBr | Br2
solvent | sodium bicarbonate | 1 mL | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-[5-Cyano-2-[(2,2-dimethyl-propyl)-methyl-amino]-6-(4-methyl-[1,4]diazepan-1-yl)-pyrimidin-4-ylamino]-N-ethoxy-4-methyl-benzamide | C(#N)C=1C(=NC(=NC1N1CCN(CCC1)C)N(C)CC(C)(C)C)NC=1C=C(C(=O)NOCC)C=CC1C | C27H40N8O2
